US06153609
To a solution of N-benzyloxy-2-[{3-[4-(2-hydroxyethyl)piperazin-1-yl]-3-oxopropyl}-(4-methoxybenzenesulfonyl)amino]-3-methylbutyramide hydrochloride (0.39 grams, 0.63 mmol) in methanol (30 mL) was added 5% palladium on barium sulfate (0.19 grams). The mixture was agitated under 3 atmospheres hydrogen in a Parr shaker for 2.25 hours. The catalyst was removed by filtration through nylon (pore size 0.45 μm) and the solvent was evaporated to a tan foam which was chromatographed on silica gel eluting with 15% methanol in chloroform containing 0.5% ammonium hydroxide. Clean fractions containing the desired product were taken up in saturated sodium bicarbonate solution. The resulting mixture was extracted several times with ethyl acetate and the combined extracts were concentrated to afford N-hydroxy-2-[{3-[4-(2-hydroxyethyl)piperazin-1-yl]-3-oxopropyl}-(4-methoxybenzenesulfonyl)amino]-3-methyl-butyramide as an oil. The hydrochloride salt (0.20 grams, 61%) was formed using anhydrous hydrochloric acid in cold (0° C.) methanol. MS: 487 (M+1). Analysis calculated for C21H34N4O7S.circle-solid.HCl.circle-solid.0.5H2O: C, 47.41; H, 6.82; N, 10.53. Found: C, 47.41; H, 7.11; N, 9.91.

reactant | N-benzyloxy-2-[{3-[4-(2-hydroxyethyl)piperazin-1-yl]-3-oxopropyl}-(4-methoxybenzenesulfonyl)amino]-3-methylbutyramide hydrochloride | 0.63 mmol, 0.39 grams | Cl.C(C1=CC=CC=C1)ONC(C(C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)OC)CCC(=O)N1CCN(CC1)CCO)=O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on barium sulfate | 0.19 grams | [Pd] | Pd
product | N-hydroxy-2-[{3-[4-(2-hydroxyethyl)piperazin-1-yl]-3-oxopropyl}-(4-methoxybenzenesulfonyl)amino]-3-methyl-butyramide | ONC(C(C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)OC)CCC(=O)N1CCN(CC1)CCO)=O | C21H34N4O7S
